US08871782B2
Ammonium hydroxide (50 mL) was added to a solution of tert-butyl 2-[(2-ethoxymethyl-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate (9.7 g, 22 mmol) in dichloromethane (120 mL), and the mixture was cooled to 10° C. p-Toluenesulfonyl chloride (4.16 g, 21.8 mmol) was added in small portions, while maintaining the reaction temperature below 15° C. The reaction was stirred for 16 hours; a tan precipitate formed. Dichloromethane (500 mL) was added, and the precipitate was isolated by filtration and washed with diethyl ether to provide 3.98 g of tert-butyl[2-(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate as a fine powder. The organic layer was washed sequentially with ammonium hydroxide, water, and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was recrystallized from acetonitrile to provide 4.4 g of tert-butyl 2-[(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate as a peach-colored powder.

reactant | Ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | tert-butyl 2-[(2-ethoxymethyl-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate | 22 mmol, 9.7 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC(=CC23)OCCNC(OC(C)(C)C)=O)[O-])N1)CCC | C23H32N4O5
reactant | p-Toluenesulfonyl chloride | 21.8 mmol, 4.16 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 500 mL | ClCCl | CH2Cl2
product | tert-butyl[2-(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate | 3.98 g | C(C)(C)(C)OC(NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC)=O | C23H33N5O4
